US05589502
To a suspension of 85.8 g of methoxycarbonylmethylenetriphenylphosphorane in 550 ml of benzene is added dropwise a solution of 15.0 g of cyclopropanecarbaldehyde in 50 ml of benzene at room temperature under argon atmosphere. The mixture is stirred at 55° C. overnight. After the reaction mixture is cooled to room temperature, the reaction mixture is poured into 800 ml of ice water. The aqueous mixture is extracted with 600 ml of chloroform twice. The chloroform layer is washed with brine. The organic layer is dried and evaporated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography (solvent; hexane:ethyl acetate=12:1) to give 17.4 g of methyl trans-3-cyclopropylacrylate.

reactant | methoxycarbonylmethylenetriphenylphosphorane | 85.8 g | COC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
reactant | cyclopropanecarbaldehyde | 15.0 g | C1(CC1)C=O | C4H6O
reactant | benzene | 550 ml | C1=CC=CC=C1 | C6H6
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | methyl trans-3-cyclopropylacrylate | 17.4 g, Yield: 65% | C1(CC1)/C=C/C(=O)OC | C7H10O2
